### PR TITLE
doc: docstring review for bitvectors

### PR DESCRIPTION
**Pull request by david-christiansen**
This PR makes the BitVec docstrings match each other and the rest of the API in style.

### CODE REVIEW

File: src/Init/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -179,7 +187,11 @@ end Syntax
 
 section repr_toString
 
-/-- Convert bitvector into a fixed-width hex number. -/
+/--
+Converts a bitvector into a fixed-width hexadecimal number with enough digits to represent it.
+
+If `n` is `0`, then one digit is returned. Otherwise, `⌊n + 3 / 4⌋` digits are returned.
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Basic.lean:193]:
```suggestion
If `n` is `0`, then one digit is returned. Otherwise, `⌊(n + 3) / 4⌋` digits are returned.
```

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -232,24 +245,23 @@ def umod (x y : BitVec n) : BitVec n :=
...
 
 SMT-LIB name: `bvudiv`.
 -/
 def smtUDiv (x y : BitVec n) : BitVec n := if y = 0 then allOnes n else udiv x y
 
 /--
-Signed t-division for bit vectors using the Lean convention where division
-by zero returns zero.
+Signed T-division (using the truncating rounding convention) for bitvectors. This function obeys the
+the Lean convention that division by zero returns zero.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:258]: Double `the`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1650,7 +1655,7 @@ theorem toInt_sdiv (a b : BitVec w) : (a.sdiv b).toInt = (a.toInt.tdiv b.toInt).
   · rw [← toInt_bmod_cancel]
     rw [BitVec.toInt_sdiv_of_ne_or_ne _ _ (by simpa only [Classical.not_and_iff_not_or_not] using h)]
 
-/-! ### Lemmas that use Bitblasting circuits -/
+/-! ### Lemmas that use Bit Blasting circuits -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1659]: The casing is off here. If you want to use `title case`, then `Circuits` should also be uppercase, no?

**Review by tobiasgrosser — APPROVED** [review]
LGTM. Thank you for this cleanup.

File: src/Init/Data/BitVec/Basic.lean [hunk 4]
```diff
@@ -129,14 +129,22 @@ end getElem
...
 
-/-- The `BitVec` with value `(2^n + (i mod 2^n)) mod 2^n`.  -/
+/--
+Converts an integer to its two's complement representation as a bitvector of the given width `n`,
+over- and underflowing as needed.
+
+The underlying `Nat` is `(2^n + (i mod 2^n)) mod 2^n`. Converting the bitvector back to an `Int`
+with `BitVec.toInt` results in the value `i.bmod (2^n)`.
+-/
 protected def ofInt (n : Nat) (i : Int) : BitVec n := .ofNatLT (i % (Int.ofNat (2^n))).toNat (by
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Basic.lean:148]: This has been like that before but perhaps refer to the actual implementation for the description of the underlying `Nat` value, i.e. `i mod 2^n`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -619,11 +619,12 @@ theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := b
...
   simp [BitVec.sle_eq_ule, h]
 
-/-! ### mul recurrence for bitblasting -/
+/-! ### mul recurrence for bit blasting -/
 
 /--
 A recurrence that describes multiplication as repeated addition.
-Is useful for bitblasting multiplication.
+
+Thsi function is useful for bit blasting multiplication.
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:627]:
```suggestion
This function is useful for bit blasting multiplication.
```

File: src/Init/Data/BitVec/Basic.lean [hunk 6]
```diff
@@ -354,7 +368,10 @@ end relations
 
 section cast
 
-/-- `cast eq x` embeds `x` into an equal `BitVec` type. -/
+/--
+If two natural numbers `n` and `m` are equal, then a bitvector of width `n` is also a bitvector of
+width `m`.
+-/
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:374]:
```suggestion
/--
If two natural numbers `n` and `m` are equal, then a bitvector of width `n` is also a bitvector of
width `m`.

This is the preferred way to spell `(h : m = n) ▸ (x : BitVec m)`, due to available `simp` lemmas on `BitVec.cast` that simplify away more consistently than Lean's generic casting machinery.
-/
```

Shall we try and use the docstring to explain to people that this works better than the generic `h ▸  x`?

**Review by bollu — COMMENTED** [review]
Thanks for the docs cleanup! I tend to write quite a bit of docstring, so I'm trying to infer conventions here. We seem to settle on:

- ` bit blasting` (instead of `bitblasting`).
- Word wrap to 80 characters. 
- Replacing logical constraints (`0 < w`) with words: "for non-zero bit width", ... 

A question: Do we want to have `bitwidth` or `bit width`? We should also, perhaps, consistently replace `width` with `bitwidth` / `bit width`.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (david-christiansen) [reply src/Init/Data/BitVec/Bitblast.lean]: I've restored the line in question to sentence case. The module docstrings aren't a part of the review process that I'm doing right now - I'm focusing on things that appear in hovers and in the reference manual at the moment.

Thanks!

File: src/Init/Data/BitVec/Basic.lean (hunk 2 above)
Comment (david-christiansen) [reply src/Init/Data/BitVec/Basic.lean]: Fixed. Nice catch, and thank you!

File: src/Init/Data/BitVec/Basic.lean (hunk 6 above)
Comment (david-christiansen) [reply src/Init/Data/BitVec/Basic.lean]: Yes, I think so! I took your text and shortened it. Thank you!

**Comment by david-christiansen** [comment]
> LGTM. Thank you for this cleanup.

Thanks for the feedback!

**Comment by david-christiansen** [comment]
> Thanks for the docs cleanup! I tend to write quite a bit of docstring, so I'm trying to infer conventions here.

There's a written guide coming very soon!

> We seem to settle on:
> 
>     * ` bit blasting` (instead of `bitblasting`).

Both were used in the code. I think it doesn't really matter with this one, so long as we're consistent, and "bit-blasting" also occurs regularly in the literature. This particular choice was largely arbitrary.

>     * Word wrap to 80 characters.

100, which is the standard line width for the Lean source. One exception: I avoid line breaks in back-ticked code because it messes up the VS Code syntax highlighting. This leads to some lines being slightly shorter.

>     * Replacing logical constraints (`0 < w`) with words: "for non-zero bit width", ...

The thought process here is that docstrings are always encountered together with signatures, whether in hovers, doc-gen output, the reference manual, or the Lean source code. Different readers get benefit from different styles, so this is an opportunity to serve both by including the notation in the signature and the text in the comment.
 
> A question: Do we want to have `bitwidth` or `bit width`? We should also, perhaps, consistently replace `width` with `bitwidth` / `bit width`.

Both are correct. Google N-Grams suggests that "bit width" is about 50% more popular in published works, so I'd go with that absent any other reason.

Do you think there's a real risk of confusion about the meaning of "width" here?
